US06323223B1
To a solution of N-tert-butyloxycarbonyl-4-(4-amino-5-chloro-2-methoxyphenyl-carbonylaminomethyl)piperidine (500 mg, 1.26 mmol) in methanol solution (30 ml) was added an ethereal 1N hydrogen chloride solution (12.6 ml, 12.6 mmol). The solution was heated at 50° C. The reaction mixture became heterogeneous within 5 min. After 1.5 h, the reaction mixture was concentrated to give a white solid which was suspended in diethylether and filtered to give 4-(4-amino-5-chloro-2-methoxyphenylcarbonylaminomethyl)piperidine as a bis-hydrochloride salt (433 mg).

reactant | N-tert-butyloxycarbonyl-4-(4-amino-5-chloro-2-methoxyphenyl-carbonylaminomethyl)piperidine | 1.26 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C1=C(C=C(C(=C1)Cl)N)OC | C19H28ClN3O4
reactant | hydrogen chloride | 12.6 mmol, 1N, 12.6 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | 4-(4-amino-5-chloro-2-methoxyphenylcarbonylaminomethyl)piperidine | NC1=CC(=C(C=C1Cl)C(=O)NCC1CCNCC1)OC | C14H20ClN3O2
